US07560568B2
Ethyl 2-chloro-4-({[2-(trifluoromethyl)phenyl]methyl}oxy)-1,3-thiazole-5-carboxylate (0.535 g, 1.46 mmol) was dissolved in 15 mL of tetrahydrofuran with stirring, and 15 mL of 1N LiOH solution was added via pipet. The mixture was stirred for 18 hours, and poured into 0.1 N NaOH and diethyl ether. The layers were separated, and the aqueous layer was acidified to pH 2 with concentrated HCl. The mixture was filtered and the white solid was washed with water. The solid was air dried, collected, and dried further under vacuum to yield 0.418 g (85%) of 2-chloro-4-({[2-(trifluoromethyl)phenyl]methyl}oxy)-1,3-thiazole-5-carboxylic acid. 1H NMR (400 MHz, DMSO-d6) δ 13.22 (br s, 1H), 7.83-7.70 (m, 3H), 7.58 (m, 1H), 5.59 (s, 2H).

reactant | Ethyl 2-chloro-4-({[2-(trifluoromethyl)phenyl]methyl}oxy)-1,3-thiazole-5-carboxylate | 1.46 mmol, 0.535 g | ClC=1SC(=C(N1)OCC1=C(C=CC=C1)C(F)(F)F)C(=O)OCC | C14H11ClF3NO3S
reactant | LiOH | 1N, 15 mL | [Li+].[OH-]
reactant | NaOH | 0.1 N | [OH-].[Na+]
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 2-chloro-4-({[2-(trifluoromethyl)phenyl]methyl}oxy)-1,3-thiazole-5-carboxylic acid | 0.418 g, 85% | ClC=1SC(=C(N1)OCC1=C(C=CC=C1)C(F)(F)F)C(=O)O | C12H7ClF3NO3S
